US05654307
2-Amino nicotinic acid (15 g, 108.6 mmol) in formamide (35 mL) is heated to 165°-170° C. for 3.5 h. Upon cooling a solid precipitates. The solid is filtered and washed with H2O and dried in a vacuum oven to give 3H-pyrido[2,3-d]pyrimidin-4-one (7.87 g, 49.4%). 1H NMR (DMSO) δ 12.50 (1H, s),8.97 (1H, dd, J=1.9, 4.5 Hz), 8.53 (1H, dd, J=2.1, 7.9 Hz), 8.34 (1H, s), 7.57 (1H, dd, J=4.6, 8.0 Hz).

reactant | 2-Amino nicotinic acid | 108.6 mmol, 15 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | formamide | 35 mL | C(=O)N | CH3NO
product | 3H-pyrido[2,3-d]pyrimidin-4-one | 7.87 g, 49.4% | N1=CNC(C2=C1N=CC=C2)=O | C7H5N3O
